US04997840
A mixture of 3-allyloxy-7-fluoro-1-methyl-4quinolone, obtained as described in Example 8a, (2.3 g), potassium cyanide (1.0 g), 18-crown-6 ether (5.0 g) and dimethylformamide (200 ml) was stirred at 95° for 2 days. After cooling to ambient temperature, the mixture was poured into water (600 ml) and extracted with dichloromethane (3×150 ml). The combined extracts were washed with water (2×200 ml), dried over magnesium sulphate and the solvent was removed by distillation. The residue was triturated with diethyl ether (50 ml) and the resultant solid added to a mixture of potassium cyanide (1.0 g), 18-crown-6 ether (5.0 g) and dimethylformamide (200 ml). The resultant solution was stirred at 140° for 16 hours and then allowed to cool to 60°. The solvent was removed under reduced pressure at 60° and the residue was partitioned between water (100 ml) and dichloromethane ( 200 ml). The dichloromethane solution was dried over magnesium sulphate and filtered through silica gel (30 g). The filter bed was washed with dichloromethane (5×100 ml) and the combined filtrate and washings were evaporated to give crude 3-allyloxy-7-cyano 1-methyl-4-quinolone.

reactant | 3-allyloxy-7-fluoro-1-methyl-4quinolone | C(C=C)OC1=CN(C2=CC(=CC=C2C1=O)F)C | C13H12FNO2
reactant | potassium cyanide | 2.3 g | [C-]#N.[K+]
reactant | 18-crown-6 ether | 5.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 600 ml | O | H2O
product | 3-allyloxy-7-cyano 1-methyl-4-quinolone | C(C=C)OC1=CN(C2=CC(=CC=C2C1=O)C#N)C | C14H12N2O2
